US07479504B2
Step B: (R/S)-1-(4-Nonylphenyl)methyl-3-hydroxypyrrolidin-3-yl carboxylic acid
The title compound was prepared using an analogous procedure described in EXAMPLE 34, Step E substituting (R/S)-1-(4-nonylphenyl)methyl-3-hydroxypyrrolidin-3-yl carboxylic acid, methyl ester (from Step A) for (R/S)-1-(4-nonylphenyl)methyl-3-fluoropyrrolidin-3-yl carboxylic acid, methyl ester: RF: 0.15 (90:10:1 v/v/v CH2Cl2/MeOH/NH4OH); 1H-NMR (500 MHz, CD3OD) δ 0.89 (t, J=6.9, 3H), 1.28-1.33 (m, 12H), 1.60-1.63 (m, 2H), 2.10 (m, 1H), 2.49 (m, 1H), 2.64 (t, J=7.7, 2H), 3.25 (m, 1H), 3.49-3.62 (m, 3H), 4.38 (ABq, J=13.0, 2H), 7.28 (d, J=7.8, 2H), 7.42 (d, J=7.8, 2H); ESI-MS 348 (M+H); LC-1: 3.0 min.

reactant | (R/S)-1-(4-nonylphenyl)methyl-3-fluoropyrrolidin-3-yl carboxylic acid, methyl ester | C(CCCCCCCC)C1=CC=C(C=C1)CN1CC(CC1)(F)C(=O)OC | C22H34FNO2
reactant | CH2Cl2 MeOH NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | (R/S)-1-(4-Nonylphenyl)methyl-3-hydroxypyrrolidin-3-yl carboxylic acid | C(CCCCCCCC)C1=CC=C(C=C1)CN1CC(CC1)(O)C(=O)O | C21H33NO3
